US06262069B1
D-Phenylglycine-4-(1-methylpiperidin-4-yl)piperidinamide
A vigorously stirred solution of CBz-D-phenylglycine-4-(1-methylpiperidin-4-yl)piperidinamide (1.1 g, 2.45 mmol) in methanol (120 ml), containing Palladium on carbon (200 mg ) was treated with hydrogen gas (balloon) at atmospheric pressure overnight. The reaction mixture was filtered through celite and concentrated to yield the title compound as a colourless oil (585 mg, 76%).

reactant | CBz-D-phenylglycine 4-(1-methylpiperidin-4-yl)piperidinamide | 2.45 mmol, 1.1 g | C1=CC=C(C=C1)COC(=O)N[C@H](C2=CC=CC=C2)C(=O)O.CN1CCC(CC1)C1CCN(CC1)C(=O)N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 120 ml | CO | CH4O
catalyst | Palladium on carbon | 200 mg | [Pd] | Pd
product | D-Phenylglycine 4-(1-methylpiperidin-4-yl)piperidinamide | 585 mg, 76% | C1=CC=C(C=C1)[C@H](C(=O)O)N.CN1CCC(CC1)C1CCN(CC1)C(=O)N | InChI=1S/C12H23N3O.C8H9NO2/c1-14-6-2-10(3-7-14)11-4-8-15(9-5-11)12(13)16;9-7(8(10)11)6-4-2-1-3-5-6/h10-11H,2-9H2,1H3,(H2,13,16);1-5,7H,9H2,(H,10,11)/t;7-/m.1/s1
